Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2](/[C:3]=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])=[O:10],2.993370665
[C:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[O:9].[H:10],1.9942954473900003
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][H:9].[O:8]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-8.00109619238
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7].[H:8],5.59604093515
[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.4133658689200002
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6])[C:9]([C:8]=[O:7])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6][O:7][C:8][C:9]1([H:10])[H:11],0.163186590889
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.90280548398
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3],7.28512510283
[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6][O:7][C:8]1([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],1.44780233286
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.83820666847
[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2][O:3][C:4][O:6][H:7].[H:5],3.33651150809
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.5381030116
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5],1.62872668955
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8],3.45297249214
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.93259374299
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5][H:6]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.361890818469998
[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.81939352515
[C:3]([H:4])[O:5][C:6]#[C:7][O:8][H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][O:8][H:9],-7.570235896719999
[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7]>>[C:4]#[C:5][O:6][H:7].[H:1][O:2][C:3],4.8986130797500005
[C:4](\[H:5])(=[C:6]\[O:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10],-3.90628900112
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]#[C:5][H:6],5.11065802945
[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.9082717471800015
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7],7.493644100139999
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],1.9641492701700003
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],5.14286843388
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1],8.246317224
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:10][H:11],1.7106539773500002
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],4.21033485733
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],7.033410929310001
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-0.267594053901
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.8800221809800006
